US07662402B2
At 0° C., 18.6 g of trifluoromethanesulfonic anhydride was added dropwise to 10.7 g of 4,4,5,5,5-pentafluoropentanol. The mixture was stirred at room temperature for an hour and then at 80° C. for 2 hours. Thereafter, the reaction mixture was poured into ice water and then extracted with t-butyl methyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 6.2 g of 4,4,5,5,5-pentafluoropentyl trifluoromethanesulfonate.

reactant | trifluoromethanesulfonic anhydride | 18.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4,4,5,5,5-pentafluoropentanol | 10.7 g | FC(CCCO)(C(F)(F)F)F | C5H7F5O
product | 4,4,5,5,5-pentafluoropentyl trifluoromethanesulfonate | 6.2 g | FC(S(=O)(=O)OCCCC(C(F)(F)F)(F)F)(F)F | C6H6F8O3S
